US05576324
5-Hydroxy-3,8-dimethylcarbostyril
N-(5-Methoxy-2-methylphenyl)α-methylcinnamamide (21.3 g, 75.8 mmol) and aluminum chloride (50.4 g, 378 mmol) were combined with chlorobenzene (158 ml), and heated in a bath at 125° C. for 45 minutes while stirring. After cooling, the mixture was poured into ice-water, to which hexane was added. Precipitated crystals were collected by filtration, and dissolved in chloroform-methanol (4:1). After drying and condensing, the resultant residue was washed with chloroform to obtain 12.22 g of the title compound as pale brown crystals (85.3%).

reactant | N-(5-Methoxy-2-methylphenyl)α-methylcinnamamide | 75.8 mmol, 21.3 g | COC=1C=CC(=C(C1)NC(C(=CC1=CC=CC=C1)C)=O)C | C18H19NO2
reactant | aluminum chloride | 378 mmol, 50.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chlorobenzene | 158 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | hexane | CCCCCC | C6H14
product | 5-Hydroxy-3,8-dimethylcarbostyril | 12.22 g, 85.3% | OC1=C2C=C(C(NC2=C(C=C1)C)=O)C | C11H11NO2
